* C:\Users\monts\OneDrive\Documentos\Escuela\Cinvestav\Primer Cuatrimestre\RFI\Proyecto\NetlistSpice\1_Circuito_Extra_ABCD.asc
R1 N003 N006 75
R2 N005 N007 75
SSC1 N004 0 62.83 45 1E9
C2 N003 N004 12p
C1 N001 N003 12p
C3 N004 N005 12p
C4 N005 N002 12p
R4 N007 0 75
R5 N003 N008 75
T1 N006 0 45 45 1E9
R3 N005 N009 75
S1 N008 N009 Z0 Bl F
.backanno
.end
