* C:\Users\monts\OneDrive\Documentos\Escuela\Cinvestav\Primer Cuatrimestre\RFI\Proyecto\NetlistSpice\1_Circuito_Extra_ABCD.asc
R1 N003 N006 75
R2 N005 N007 75
C2 N003 N010 12p
C1 N009 N003 12p
C3 N010 N005 12p
C4 N005 N002 12p
R4 N007 0 75
R5 N003 N008 75
TL1 N006 0 45 45 1E9
R3 N004 N005 75
R6 N009 N001 75
TL2 N008 N004 60 60 1E9
.backanno
.end
