* C:\Users\monts\OneDrive\Documentos\Escuela\Cinvestav\Primer Cuatrimestre\RFI\Proyecto\NetlistSpice\1_Circuito_Extra_ABCD.asc
R1 N003 N006 75
R2 N005 N007 75
C2 N003 N010 12p
C1 N009 N003 12p
C3 N010 N005 12p
C4 N005 N002 12p
R5 N003 N008 75
TL1 N006 0 45 45 1E9
R3 N004 N005 75
R6 N009 N001 75
SOC1 N008 N004 13 45 1E9
SSC1 N007 0 45 45 1E9
.backanno
.end
